US08609892B2
To a mixture of 4-[1-(4-bromo-phenylsulfanyl)-3-methyl-heptyl]benzoic acid (1700 mg, 4.18 mmol) in methylene chloride (42 mL) are added triethyl amine (1.75 mL, 12.53 mmol), DMAP (5.0 mg), 3-amino-propionic acid methyl ester (875 mg, 6.27 mmol) and EDCI (2408 mg, 12.53 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, eluted with eluted with hexanes with a gradient from 0% of ethyl acetate to 100% of ethyl acetate giving 3-{4-[1-(4-bromo-phenylsulfanyl)-3-methyl-heptyl]-benzoylamino}-propionic acid methyl ester (1.640 mg).

reactant | 4-[1-(4-bromo-phenylsulfanyl)-3-methyl-heptyl]benzoic acid | 4.18 mmol, 1700 mg | BrC1=CC=C(C=C1)SC(CC(CCCC)C)C1=CC=C(C(=O)O)C=C1 | C21H25BrO2S
reactant | triethyl amine | 12.53 mmol, 1.75 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-propionic acid methyl ester | 6.27 mmol, 875 mg | COC(CCN)=O | C4H9NO2
reactant | EDCI | 12.53 mmol, 2408 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 42 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-{4-[1-(4-bromo-phenylsulfanyl)-3-methyl-heptyl]-benzoylamino}-propionic acid methyl ester | 1.640 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(CCCC)C)SC1=CC=C(C=C1)Br)=O)=O | C25H32BrNO3S
